US04259333
B. Pivaloyloxymethyl 7-[(4-(3-aminopropyl)-1-piperidyl)-methyleneamino]-3-methyl-3-cephem-4-carboxylate, dihydrochloride
To a stirred solution of pivaloyloxymethyl 7-[(4-(3-azidopropyl)-1-piperidyl)-methyleneamino]-3-methyl-3-cephem-4-carboxylate (1.5 g) in ethyl acetate (25 ml) were added water (30 ml) and hydrochloric acid to pH=3. 10% palladium-on-carbon (0.5 g) was added, and hydrogen was bubbled through the stirred mixture, a pH-value of 3 being maintained by addition of 0.2 N hydrochloric acid. When the consumption of acid ceased, the catalyst was filtered off. The aqueous phase was separated and freeze-dried to yield the desired compound as an amorphous powder.

reactant | pivaloyloxymethyl 7-[(4-(3-azidopropyl)-1-piperidyl)-methyleneamino]-3-methyl-3-cephem-4-carboxylate | 1.5 g | N(=[N+]=[N-])CCCC1CCN(CC1)C=NC1[C@@H]2N(C(=C(CS2)C)C(=O)OCOC(C(C)(C)C)=O)C1=O | C23H34N6O5S
reactant | water | 30 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-carbon | 0.5 g | [Pd] | Pd
product | Pivaloyloxymethyl 7-[(4-(3-aminopropyl)-1-piperidyl)-methyleneamino]-3-methyl-3-cephem-4-carboxylate, dihydrochloride | Cl.Cl.NCCCC1CCN(CC1)C=NC1[C@@H]2N(C(=C(CS2)C)C(=O)OCOC(C(C)(C)C)=O)C1=O | InChI=1S/C23H36N4O5S.2ClH/c1-15-12-33-20-17(25-13-26-10-7-16(8-11-26)6-5-9-24)19(28)27(20)18(15)21(29)31-14-32-22(30)23(2,3)4;;/h13,16-17,20H,5-12,14,24H2,1-4H3;2*1H/t17?,20-;;/m1../s1
